US07700594B2
3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazin-8-amine (500 mg, 2 mmol) and tetrakis(triphenylphosphine)palladium(0) (100 mg, 0.1 mmol) was degassed dry three times then treated with methanol (20 mL) and N,N-diisopropylethylamine (0.7 mL, 4.0 mmol) and the mixture heated at 70° C. under an atmosphere of carbon monoxide, with intermittent bubbling of this gas under the surface of the reaction mixture. After 3d heating with extensive bubbling through of the solution with carbon monoxide and some addition of fresh catalyst after day 2, TLC (10% MeOH/DCM) indicated the reaction to be complete. The reaction mixture was diluted with water, extracted with DCM and the extracts washed with water and brine, then dried over magnesium sulphate, and concentrated in vacuo to afford an orange solid which was recrystallised from acetonitrile to afford methyl 8-amino-3-cyclobutylimidazo[1,5-a]pyrazine-1-carboxylate. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.97-2.06 (m, 1H), 2.10-2.26 (m, 1H), 2.43-2.54 (m, 2H), 2.53-2.68 (m, 2H), 3.78 (dd, J=9.09, 8.08 Hz, 1H), 4.01 (s, 3H), 7.08 (d, J4.80 Hz, 1H), 7.22 (d, J=4.80 Hz, 1H), 7.38 (br. s., 1H), 7.69 (br. s., 1H).

reactant | 3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazin-8-amine | 2 mmol, 500 mg | C1(CCC1)C1=NC(=C2N1C=CN=C2N)I | C10H11IN4
reactant | methanol | 20 mL | CO | CH4O
reactant | N,N-diisopropylethylamine | 4.0 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 8-amino-3-cyclobutylimidazo[1,5-a]pyrazine-1-carboxylate | NC=1C=2N(C=CN1)C(=NC2C(=O)OC)C2CCC2 | C12H14N4O2
